US07429661B2
N-[3-pthalimido-2-(R)-hydroxypropyl]-3-fluoro-4-(morpholinyl)aniline (57 gm) is dissolved in methylene dichloride (600 ml), carbonyl diimidazole (32 gm) is added at ambient temperature and the reaction mixture is stirred for 20 hours. The reaction mass is washed with water and methylene dichloride is distilled to give 48 gm of (S)-N-[[3-[3-Fluoro-4-[4-morpholinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]phthalimide as solid.

reactant | N-[3-pthalimido-2-(R)-hydroxypropyl]-3-fluoro-4-(morpholinyl)aniline | 57 gm | C1(C=2C(C(N1C[C@@H](CNC1=CC(=C(C=C1)N1CCOCC1)F)O)=O)=CC=CC2)=O | C21H22FN3O4
reactant | carbonyl diimidazole | 32 gm | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | methylene dichloride | 600 ml | C(Cl)Cl | CH2Cl2
product | (S)-N-[[3-[3-Fluoro-4-[4-morpholinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]phthalimide | 48 gm | FC=1C=C(C=CC1N1CCOCC1)N1C(O[C@H](C1)CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C22H20FN3O5
